### PR TITLE
Refactored equivocator-related definitions and results

### PR DESCRIPTION
**Pull request by traiansf**
This PR makes the following substantial changes:

- refactors most of the definitions and results related to equivocators to not rely on their underlying `Vectors.Fin` structure, but instead using state projections with naturals.
- restructures the approach in the `SimulatingFree` package to be able to reuse it for proving the similar result for fixed-set equivocation.
- provides some simple lemmas relating fixed-set and limited equivocation.

### CODE REVIEW

**Comment by traiansf** [comment]
Note. This PR is currently rebased on the https://github.com/runtimeverification/casper-cbc-proofs/tree/is_equivocating_statewise branch, so it should be merged after PR #221

File: Lib/FinExtras.v [hunk 1]
```diff
@@ -5,32 +5,28 @@ From Coq Require Import Vectors.Fin FinFun Program.
 
 Fixpoint fin_t_listing
   (n : nat)
-  : list (Fin.t n)
+  : list nat
```
Comment (palmskog) [inline Lib/FinExtras.v:8]: It's strange to me to completely change the semantics of the function (from finite types to nats), yet retain the name.

In my view, a better approach is to define a completely new set of functions with appropriate names and keep the old ones. For example, the `fin_t_listing` analogue could be `up_to_n_listing` or similar.

File: Lib/ListExtras.v [hunk 2]
```diff
@@ -1787,3 +1787,80 @@ Proof.
...
+  - apply NoDup_ListNoDup. apply finite_l.
+  - intro. apply elem_of_list_In. apply finite_l.
+Defined.
+
+Lemma Listing_finite `{EqDecision A} {l : list A} (finite_l : Listing l) : finite.Finite A.
+Proof.
+  apply (Listing_finite_transparent finite_l).
+Qed.
+
+Lemma sumbool_forall [A : Type] [P Q : A → Prop]:
```
Comment (palmskog) [inline Lib/ListExtras.v:1803]: This looks exactly the same as `stdpp.list.Forall_Exists_dec` to me. Can you double check?

**Review by palmskog — COMMENTED** [review]
This is a huge PR that is very difficult to review since it seemingly includes a bunch of completely new things from other PRs, such as temporal logic and ELMO. Could we maybe wait until those are actually in `master` before we merge this?
